data/oMe_Silver.jsonl
{"reaction_id": "NR-321_1-C1CCCCC1_2-C#N_3-C1CC1","level": "easy","name": "Williamson Ether Synthesis","reactants_smiles": ["OC1CCCCC1","BrC(C#N)C1CC1","[Na][H]"],"products_smiles": ["C(OC1CCCCC1)(C#N)C1CC1"],"conditions": "","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]C1CCCCC1","step_weight": 0,"rationale": "NaH acts as a strong base, abstracting the alcohol proton due to the high acidity of the O–H bond and forming a resonance-stabilized alkoxide anion."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(OC1CCCCC1)(C#N)C1CC1","step_weight": 0,"rationale": "The alkoxide, being a strong nucleophile, attacks the electrophilic carbon of the alkyl bromide in an SN2 fashion, favored by the good leaving ability of bromide and minimal steric hindrance."}],"description": "In the Williamson ether synthesis, an alcohol is first deprotonated by a strong base to form an alkoxide, which is a strong nucleophile. This alkoxide then undergoes an SN2 reaction with an alkyl halide, yielding the ether product efficiently under mild conditions."}
{"reaction_id": "NR-124_1-C_2-CC_3-C(F)(F)F_4-C(F)(F)F_5-c1ccccc1_6-C","name": "Knorr Quinoline Synthesis","level": "medium","reactants_smiles": ["C(=O)(c1ccccc1)C(C)C(=O)Nc1c(C(F)(F)F)c(C(F)(F)F)c(CC)c(C)c1"],"products_smiles": ["C1(C)=C(CC)C(C(F)(F)F)=C(C(F)(F)F)C2=C1C(C)=C(c1ccccc1)C(N2)=O"],"conditions": "Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)(O)C(C)C(=[OH+])Nc1c(C(F)(F)F)c(C(F)(F)F)c(CC)c(C)c1","rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity of the adjacent carbon and priming it for intramolecular nucleophilic attack."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)(=[OH+])C(C)C(=[OH+])Nc1c(C(F)(F)F)c(C(F)(F)F)c(CC)c(C)c1","rationale": "Further protonation of the second carbonyl enhances its electrophilicity, aligning both carbonyls for cyclization under strongly acidic conditions."},{"step": 3,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C1(C)=C2C(=C(C(F)(F)F)C(C(F)(F)F)=C1(CC))[NH+]=C(C(c1ccccc1)C2(C)O)O","rationale": "Activated carbonyl undergoes intramolecular electrophilic substitution by the aromatic amine, favored by proximity and resonance stabilization of the developing cation."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C)=C2C(=C(C(F)(F)F)C(C(F)(F)F)=C1(CC))[NH+]=C(C(c1ccccc1)C2(C)[OH2+])O","rationale": "Proton transfer to the hydroxyl group converts it into a better leaving group (water), facilitating subsequent elimination."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1(C)=C2C(=C(C(F)(F)F)C(C(F)(F)F)=C1(CC))[NH+]=C(C(c1ccccc1)=C2(C))O","rationale": "Loss of water occurs due to the excellent leaving group ability of neutral water, driven by formation of a conjugated C=N system."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C)=C2C(=C(C(F)(F)F)C(C(F)(F)F)=C1(CC))[N]=C(C(c1ccccc1)=C2(C))O","rationale": "Deprotonation of the iminium nitrogen restores neutrality and increases conjugation, stabilizing the heteroaromatic framework."},{"step": 7,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C)=C2C(=C(C(F)(F)F)C(C(F)(F)F)=C1(CC))NC(C(c1ccccc1)=C2(C))=O","rationale": "Final proton transfer yields the neutral quinoline amide, completing aromatization and maximizing resonance stabilization."}],"description": "Under acidic conditions, the Knorr quinoline synthesis proceeds via sequential protonations to activate carbonyls, intramolecular electrophilic attack forming the heterocyclic ring, and dehydration to yield the quinoline core. Acid catalysis enhances electrophilicity and facilitates leaving group departure, driving cyclization and aromatization."}
